US04963564
3-[3-[(6-Bromohexyl)oxy]propyl]pyridine
A mixture of 3-pyridinepropanol (10 g), 1,6-dibromohexane (40 ml) 50% (w/v) sodium hydroxide (40 ml) and TAB (1.0 g) was stirred at room temperature for 3 h, water (150 ml) was added and the mixture was extracted with ether (2×200 ml). The organic extracts were washed with water and brine, dried and concentrated to an oil which was purified by FCC eluting with hexane→hexane-ether (1:1), to give the title compound as a yellow oil (11.0 g), t.l.c. (hexane-ether 1:1) Rf 0.16.

reactant | 3-pyridinepropanol | 10 g | N1=CC(=CC=C1)CCCO | C8H11NO
reactant | 1,6-dibromohexane | 40 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 3-[3-[(6-Bromohexyl)oxy]propyl]pyridine | 11.0 g | BrCCCCCCOCCCC=1C=NC=CC1 | C14H22BrNO
